US08076326B2
1.2 4-Methyl-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonyl chloride
To a solution of 2 g of 2,2,2-trifluoro-1-(4-o-tolyl-piperazin-1-yl)-ethanone (7.35 mmol) in 5 mL of dichloromethane at −5° C. were slowly added 19.7 g of chlorosulfonic acid (169 mmol). After stirring for 2 h at −5° C., the reaction mixture continued stirring for 16 h, thereby slowly allowed to warm to room temperature. After cooling to 0° C., the reaction mixture was slowly added to a water/ice mixture. The aqueous phase was extracted five times with dichloromethane, the combined organic phases washed with aqueous sodium bicarbonate solution and saturated sodium chloride solution. The organic layer was dried over magnesium sulphate, filtered, and the solvent evaporated to yield 2.2 g of product as a white solid.

reactant | 2,2,2-trifluoro-1-(4-o-tolyl-piperazin-1-yl)-ethanone | 7.35 mmol, 2 g | FC(C(=O)N1CCN(CC1)C1=C(C=CC=C1)C)(F)F | C13H15F3N2O
reactant | chlorosulfonic acid | 169 mmol, 19.7 g | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-Methyl-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonyl chloride | 2.2 g | CC1=C(C=C(C=C1)S(=O)(=O)Cl)N1CCN(CC1)C(C(F)(F)F)=O | C13H14ClF3N2O3S
